US08937073B2
1b) 2-fluoro-4-(4-methoxy-2-trifluoromethyl-phenylamino)-benzylamine
2-fluoro-4-(4-methoxy-2-trifluoromethyl-phenylamino)-benzonitrile (2.85 g, 9.19 mmol) was hydrogenated in 40 mL saturated methanolic ammonia solution after the addition of 300 mg of Raney nickel at ambient temperature. After the catalyst had been filtered off and the mixture evaporated down the product was obtained in a yield of 99% of theory.

reactant | 2-fluoro-4-(4-methoxy-2-trifluoromethyl-phenylamino)-benzonitrile | 9.19 mmol, 2.85 g | FC1=C(C#N)C=CC(=C1)NC1=C(C=C(C=C1)OC)C(F)(F)F | C15H10F4N2O
solvent | ammonia | 40 mL | N | H3N
catalyst | Raney nickel | 300 mg | [Ni] | Ni
product | 2-fluoro-4-(4-methoxy-2-trifluoromethyl-phenylamino)-benzylamine | yield of 99% | FC1=C(CN)C=CC(=C1)NC1=C(C=C(C=C1)OC)C(F)(F)F | C15H14F4N2O
